US06294558B1
4-(4-Bromophenyl)-1,3-oxazole (step 1)
To a stirred solution of 2,4′-dibromoacetophenone (9.66 g, 34.8 mmol) in formic acid (42 ml) was added ammonium formate (7.58 g, 120.6 mmol), and the mixture was heated at reflux temperature for 3 hours. The reaction mixture was cooled down to room temperature, and made basic by addition of 50% NaOH aqueous solution. The whole was extracted with CH2H2. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate-hexane (1:5) to give title compound (2.0 g, 26% yield).

reactant | 2,4′-dibromoacetophenone | 34.8 mmol, 9.66 g | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | ammonium formate | 120.6 mmol, 7.58 g | C(=O)[O-].[NH4+]
reactant | NaOH | [OH-].[Na+]
solvent | formic acid | 42 ml | C(=O)O | CH2O2
product | 4-(4-Bromophenyl)-1,3-oxazole | 2.0 g, 26% yield | BrC1=CC=C(C=C1)C=1N=COC1 | C9H6BrNO
